US05972946
A mixture of 4-chloro-5,6-dimethyl-2-phenylpyrimidine (1.8 g), 2-amino-3-benzyloxy-N,N-dipropylpropanamide (4.6 g), which is prepared from N-(tert-butoxycarbonyl)-O-benzylserine, and triethylamine (1.7 g) is stirred at 150° C. for 5 hours. The reaction mixture is treated in the same manner as in Example 1 to give 3-benzyloxy-2-(5,6-dimethyl-2-phenyl-4-pyrimidinylamino)-N,N-dipropylpropanamide (3.5 g) as an oily product.

reactant | 4-chloro-5,6-dimethyl-2-phenylpyrimidine | 1.8 g | ClC1=NC(=NC(=C1C)C)C1=CC=CC=C1 | C12H11ClN2
reactant | 2-amino-3-benzyloxy-N,N-dipropylpropanamide | 4.6 g | NC(C(=O)N(CCC)CCC)COCC1=CC=CC=C1 | C16H26N2O2
reactant | N-(tert-butoxycarbonyl)-O-benzylserine | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
solvent | triethylamine | 1.7 g | C(C)N(CC)CC | C6H15N
product | 3-benzyloxy-2-(5,6-dimethyl-2-phenyl-4-pyrimidinylamino)-N,N-dipropylpropanamide | 3.5 g | C(C1=CC=CC=C1)OCC(C(=O)N(CCC)CCC)NC1=NC(=NC(=C1C)C)C1=CC=CC=C1 | C28H36N4O2
